### PR TITLE
Define cup product in degrees 0 and 1

### PR DESCRIPTION
**Pull request by timjb**

### CODE REVIEW

**Comment by timjb** [comment]
@favonia I'm currently stuck on an Agda issue: There's a hole in `theorems/cohomology/CupProduct11.agda`, which already contains a term of the required type (which can be checked using `C-c C-.`) but when I try to fill the goal using `C-c C-SPC`, Agda seems to get stuck in an infinite loop. The same happens when I simply replace the hole by the term and try to reload the file with `C-c C-l`.

This is not the first time I have seen this behavior by Agda. Before, I somehow managed to solve it or find a workaround, but I have no idea what to do this time. Have you experienced this kind of behavior? Do you have any tips on how to deal with it?

**Comment by favonia** [comment]
@timjb I managed to survive with little or no interaction support (and that seems to surprise many people). Somehow I am able to make up the terms in my mind. Sorry I don't have much experience here.

If you have a smaller example, I strongly suggest reporting it to Agda developers. If the bug is stopping you from making progress, I will have time this Friday or weekend to look at it. Does that sound like a plan?

File: core/lib/types/CRing.agda [hunk 1]
```diff
@@ -0,0 +1,89 @@
...
+  add = comp
+
+  field
+    add-comm    : ∀ a b → add a b == add b a
+    one         : El
+    mult        : El → El → El
+    mult-unit-l : ∀ a → mult one a == a
+    mult-assoc  : ∀ a b c → mult (mult a b) c == mult a (mult b c)
+    mult-comm   : ∀ a b → mult a b == mult b a
+    distr-l : ∀ a b c → mult (add a b) c == add (mult a c) (mult b c)
```
Comment (favonia) [inline core/lib/types/CRing.agda]: I wonder if having commutative monoids would help... but we can think about the refactoring later.

File: core/lib/types/EilenbergMacLane1.agda [hunk 2]
```diff
@@ -31,12 +34,12 @@ module _ {G : Group i} where
   embase = embase' G
   emloop = emloop' G
   emloop-comp = emloop-comp' G
+  emloop-coh = emloop-coh' G
 
   instance
-    EM₁-level : {n : ℕ₋₂} → has-level (S (S (S n))) (EM₁ G)
+    EM₁-level : {n : ℕ₋₂} → has-level (S (S (S (S n)))) (EM₁ G)
```
Comment (favonia) [inline core/lib/types/EilenbergMacLane1.agda]: The current convention would have `EM₁-level : has-level 2 (EM₁ G)`. If you want to omit `raise-level`, I wonder if it helps to make `raise-level` an instance? @guillaumebrunerie I wonder if you have considered making `raise-level` an instance before?

**Comment by timjb** [comment]
@favonia Thanks for your feedback. The behavior I am seeing is not a bug in the interactive mode: When I replace that hole by the term and load the file from the command line, Agda also gets stuck in an infinite loop.

I will try to make the example smaller and I will try it in an unreleased version of Agda to see whether the Agda developers have already fixed this bug.

**Comment by favonia** [comment]
This looks great! I am looking forward to your cup products!

The Agda in the experimental branch will not type-check the (whole) HoTT-Agda due to Agda/Agda#2979. But maybe your part is okay.

File: core/lib/types/EilenbergMacLane1.agda [hunk 3]
```diff
@@ -63,24 +70,306 @@ module _ {G : Group i} where
...
+        e₅₃** = emloop** g₁ ∙ᵈₗ emloop-comp** g₂ g₃
+
+        φ** : s₀** == s₃** [ (λ s → embase* == embase* [ P ↓ s ]) ↓ φ ]
+        φ** = e₀₁** ∙ᵈ e₁₂** ∙ᵈ e₂₃**
+
+        ψ** : s₀** == s₃** [ (λ s → embase* == embase* [ P ↓ s ]) ↓ ψ ]
+        ψ** = e₀₄** ∙ᵈ e₄₅** ∙ᵈ e₅₃**
+
+        tt₁ : ↓-cst-in s₃* == emloop** g₁ ∙ᵈ ↓-cst-in {p = emloop g₂ ∙ emloop g₃} (emloop* g₂ ∙ emloop* g₃)
+        tt₁ = ↓-cst-in-∙ (emloop g₁) (emloop g₂ ∙ emloop g₃) (emloop* g₁) (emloop* g₂ ∙ emloop* g₃)
```
[the remark this answers is not in the document]
Comment (timjb) [reply core/lib/types/EilenbergMacLane1.agda]: dd = dumb definition

I will rename this before merging, but haven't found a good name so far.

[the remark this answers is not in the document]
Comment (favonia) [reply core/lib/types/EilenbergMacLane1.agda]: Well, don't worry about them right now. Maybe what we need eventually are some good comments, not names. :smile:

**Comment by timjb** [comment]
@favonia Unfortunately, the current Agda HEAD version doesn't work. It gets stuck on `theorems/homotopy/HSpace.agda`.

**Comment by favonia** [comment]
I run version `2.6.0-0e193b2` on the `master` branch of `HoTT-Agda` and it can check `theorems/homotopy/HSpace.agda` on my machine. Perhaps your PR exposes yet another regression?

**Comment by timjb** [comment]
@favonia I tried using https://github.com/agda/agda/commit/120f3dd1c8d334eab4b35b104cf9cb52e984f65f (the commit before the commit that introduced https://github.com/agda/agda/issues/2979) and it worked!

So I'm going to use this version of Agda for now. Hopefully, there will be a new release of Agda when this pull request is ready. Otherwise, one workaround that I think may work is to merge `cohomology.CupProduct00` and `cohomology.CupProduct01`. I don't want to do this now to keep checking times low.

**Comment by favonia** [comment]
By the way, once you feel the definition is ready, please add the "top-level" files into one of the indexes (or create a new one) so that future PRs cannot break your cup products.

File: core/lib/types/PathSeq.agda [hunk 4]
```diff
@@ -296,60 +296,68 @@ module _ {i} {A : Type i} {a a' : A} where
   _∙ₛ_ : {s t u : a =-= a'} → s =ₛ t → t =ₛ u → s =ₛ u
   _∙ₛ_ (=ₛ-intro p) (=ₛ-intro q) = =ₛ-intro (p ∙ q)
 
+  {-
+    Note: While this enables more succinct chains of equations in comparison to
+    chains using _=↯=⟨_&_&_&_⟩_ (since it avoids having to spell out the target
+    subsequence), it is also results in significantly (~ one order of magnitude)
+    slower type checking. Therefore, this function should only be used for
+    developing new proofs, not to simplify old proofs.
+  -}
```
Comment (favonia) [inline core/lib/types/PathSeq.agda]: Do you think it's due to the instance argument search or just the unification (for implicit arguments)?

Comment (timjb) [reply core/lib/types/PathSeq.agda]: I measured the time it takes to check `core/lib/two-semi-categories/FunCategory.agda` (including loading the dependencies)

* with `=ₛ` with instance arguments: 25.2s (1st run), 21.2s (2nd run), 21.5s (3rd run)
* with `=ₛ` with explicit arguments: 13.9s, 13.2s, 13.4s
* with `=↯=`: 5.8s, 6.0s, 5.9s

So it seems like unification and instance resolution are each responsible for about half of the increase in checking time.

**Comment by timjb** [comment]
@favonia Doing so would not significantly simplify `↓-=-in-β` and `↓-=-out-η`. There would be one fewer step in the equation chains and the terms wouldn't involve `q`, but that's it.

File: core/lib/types/PathSeq.agda (hunk 4 above)
Comment (favonia) [reply core/lib/types/PathSeq.agda]: If I only check `CupProduct.agda`...
```
$ agda --version
Agda version 2.5.4-120f3dd-dirty
$ rm theorems/cohomology/CupProduct.agdai
$ /bin/time -v agda theorems/cohomology/CupProduct.agda
Checking cohomology.CupProduct (/home/favonia/documents/records/code/utt-agda/theorems/cohomology/CupProduct.agda).
	Command being timed: "agda theorems/cohomology/CupProduct.agda"
	User time (seconds): 169.71
	System time (seconds): 2.27
	Percent of CPU this job got: 99%
	Elapsed (wall clock) time (h:mm:ss or m:ss): 2:52.96
	Average shared text size (kbytes): 0
	Average unshared data size (kbytes): 0
	Average stack size (kbytes): 0
	Average total size (kbytes): 0
	Maximum resident set size (kbytes): 2500484
	Average resident set size (kbytes): 0
	Major (requiring I/O) page faults: 0
	Minor (reclaiming a frame) page faults: 617781
	Voluntary context switches: 1
	Involuntary context switches: 1285
	Swaps: 0
	File system inputs: 0
	File system outputs: 1008
	Socket messages sent: 0
	Socket messages received: 0
	Signals delivered: 0
	Page size (bytes): 4096
	Exit status: 0
```

**Comment by favonia** [comment]
@timjb Please correct me if I'm wrong, but I feel the 1-1-cup products are already defined in this PR, and I guess that part will stay in the final development. Your improvements to the PathSeq seem interested, and if everything looks fine, I would like to merge this huge PR and maybe you could start another PR to continue. What do you think?

**Comment by timjb** [comment]
@favonia Yes, the 1-1-cup product is done, but there is also some unfinished work on the commutativity of this product map. I think that I will be able to finish proving commutativity in the next week. I propose merging this PR after I have done that. In parallel to this, you could start reviewing and I could start cleaning things up.

**Comment by timjb** [comment]
@favonia Big progress today on the commutativity of the 1-1-cup-product! I've now got the missing commutative diagram for proving this on paper, the only work left is formalizing it in Agda. (Unfortunately, it is quite big.) And I've finally found the part that wouldn't commute if `antipodal-map` was defined any other way (e.g. if `antipodal-map` were the identity). I was already beginning to wonder whether my definition of the cup product was wrong, because you would certainly expect such a part to appear somewhere (since otherwise the cup product as defined by me would be commutative, not only skew-commutative). Now I'm almost 100% confident I've got the definition correct!

In the next days I will be working mostly on a report on another project for University. I expect to be finished with the commutativity proof by Monday 8 days.

**Comment by timjb** [comment]
@favonia The commutativity proof is complete now! \o/

**Comment by favonia** [comment]
@timjb Let me merge the `master` branch first...

File: core/lib/Funext.agda [hunk 5]
```diff
@@ -135,29 +137,222 @@ module StrongFunextDep {j} {P : A → Type j} where
...
+  app=-ap idp = λ=-η idp
+
+  λ=-ap : (α : f ∼ g)
+    → ap (λ f' a → h a (f' a)) (λ= α) == λ= (λ a → ap (h a) (α a))
+  λ=-ap α =
+    ap (λ f' a → h a (f' a)) (λ= α)
+      =⟨ app=-ap (λ= α) ⟩
+    λ= (λ a → ap (h a) (app= (λ= α) a))
+      =⟨ ap λ= (λ= (λ a → ap (ap (h a)) (app=-β α a))) ⟩
+    λ= (λ a → ap (h a) (α a)) =∎
```
Comment (favonia) [inline core/lib/Funext.agda]: @timjb To help me understand the change to path sequences, could you possibly point out the parts that really need PathSeq at the core kernel?

**Comment by favonia** [comment]
@timjb To help me understand the change to path sequences, could you possibly point out the parts that really need PathSeq at the core kernel?

File: core/lib/NConnected.agda [hunk 6]
```diff
@@ -98,10 +98,10 @@ conn-extend-general {B = B} {n = n} {k = S k'} {f = f} c P t = has-level-in
     Q : (g h : Π B (fst ∘ P)) → B → (k' +2+ n) -Type _
     Q g h b = ((g b == h b) , has-level-apply (snd (P b)) _ _)
 
-    app=-ap : ∀ {i j k} {A : Type i} {B : Type j} {C : B → Type k}
+    app=-∘ : ∀ {i j k} {A : Type i} {B : Type j} {C : B → Type k}
       (f : A → B) {g h : Π B C} (p : g == h)
       → app= (ap (λ k → k ∘ f) p) == (app= p ∘ f)
-    app=-ap f idp = idp
+    app=-∘ f idp = idp
```
Comment (favonia) [inline core/lib/NConnected.agda]: This name is good, and maybe `app=-post∘` or something like that could be better.

File: theorems/homotopy/EilenbergMacLane1.agda [hunk 7]
```diff
@@ -72,31 +74,460 @@ module homotopy.EilenbergMacLane1 {i} (G : Group i) where
...
+    -- TODO: move this elsewhere
+    foo : ∀ {i j k} {A : Type i} {B : A → Type j} {C : A → Type k}
+      {x x' : A} {p₁ p₂ : x == x'} (q : p₁ == p₂)
+      (u : B x → C x) (u' : B x' → C x')
+      (s : transport C p₁ ∘ u == u' ∘ transport B p₁)
+      (t : transport C p₂ ∘ u == u' ∘ transport B p₂)
+      → (s ∙' ap (λ p → u' ∘ transport B p) q) == (ap (λ p → transport C p ∘ u) q ∙ t)
+      -- → s == t [ (λ p → transport C p ∘ u == u' ∘ transport B p) ↓ q ]
+      → ↓-→-from-transp s == ↓-→-from-transp t [ (λ p → u == u' [ (λ y → B y → C y) ↓ p ]) ↓ q ]
+    foo q u u' s t h = ap↓ ↓-→-from-transp (↓-='-in h)
```
Comment (favonia) [inline theorems/homotopy/EilenbergMacLane1.agda]: Hmm... maybe we can make this local, at least?

File: theorems/homotopy/EilenbergMacLane1.agda [hunk 8]
```diff
@@ -72,31 +74,460 @@ module homotopy.EilenbergMacLane1 {i} (G : Group i) where
...
+          transp-emloop=∙-emloop = transp-cst=idf (emloop g) (emloop y)
+
+          ∙-emloop=emloop-comp : emloop' G y ∙ emloop g == emloop (G.comp y g)
+          ∙-emloop=emloop-comp = ! (emloop-comp y g)
+
+          emloop-comp=emloop-transp : emloop' G (G.comp y g) == emloop-transp (emloop' G g) y
+          emloop-comp=emloop-transp = ap emloop (! (↓-Codes-loop-transp g y))
+
+          transp-emloop=emloop-transp : transp-emloop (emloop g) y == emloop-transp (emloop g) y
+          transp-emloop=emloop-transp = transp-emloop=∙-emloop ∙ ∙-emloop=emloop-comp ∙ emloop-comp=emloop-transp
```
Comment (favonia) [inline theorems/homotopy/EilenbergMacLane1.agda]: (This is very minor!) Personally I think `...-p=q-...` would be confusing because it looks like `p=q` is more closely related than the other parts.

File: theorems/homotopy/EilenbergMacLane1.agda [hunk 9]
```diff
@@ -72,31 +74,460 @@ module homotopy.EilenbergMacLane1 {i} (G : Group i) where
...
+
+        swap-transp-emloop : transp-emloop (emloop g) == emloop-transp (emloop g)
+        swap-transp-emloop = λ= transp-emloop=emloop-transp
+
+        loop' : Q (emloop g)
+        loop' = ↓-→-from-transp swap-transp-emloop
+
+      module _ (g₁ g₂ : G.El) where
```
Comment (favonia) [inline theorems/homotopy/EilenbergMacLane1.agda]: I believe we need to mark most lemmas in this module `private`. @timjb

**Comment by favonia** [comment]
@timjb I could not really make travis work for now... I guess I will merge this PR without travis.

I suppose the subscript `s` stands for sequences, and `t` for truncation. Is that right?

Also I wonder if you could write a short comment on how to use `_=↯=⟨_&_&_&_⟩_` and the company.

File: theorems/homotopy/EilenbergMacLane1.agda (hunk 7 above)
Comment (timjb) [reply theorems/homotopy/EilenbergMacLane1.agda]: `foo` was only used in one place. I've inlined it.

**Comment by timjb** [comment]
> To help me understand the change to path sequences, could you possibly point out the parts that really need PathSeq at the core kernel?

What I'm really interested in is having `=ₛ` in the core kernel, because with this I can define

```agda
∙-λ= : λ= α ◃∙ λ= β ◃∎ =ₛ λ= (λ x → α x ∙ β x) ◃∎`
```

and similarly for other equalities between paths in `core/lib/*.agda`. Without `=ₛ` in core, I would have to define

```agda
∙-λ= : λ= α ∙ λ= β == λ= (λ x → α x ∙ β x)`
```

A value of the former type also contains a value of the latter type, but furthermore it also stores how the two paths can each be represented as the composition of (smaller) paths. This information comes in handy in the PathSeq rewriting machinery and is what makes the former type strictly more useful than the latter.

> I suppose the subscript s stands for sequences, and t for truncation. Is that right?

Correct.

> Also I wonder if you could write a short comment on how to use _=↯=⟨_&_&_&_⟩_ and the company.

I will do this.

File: core/lib/NConnected.agda (hunk 6 above)
Comment (timjb) [reply core/lib/NConnected.agda]: I've renamed it to `app=-pre∘` since this lemma concerns the interaction between `app=` and *pre*composition with a function.

Comment (favonia) [reply core/lib/NConnected.agda]: Oops, you are right.

**Comment by timjb** [comment]
@favonia I'm satisfied now with the state of the code. Is there anything you would like to see changed?

One idea regarding Travis: Maybe splitting `index2stage2.agda` into `index2stage2.agda` (containing `cw.cohomology.AxiomaticIsoCellular`) and `index2stage3.agda` (containing my cup product stuff) could help reduce memory consumption.

**Comment by favonia** [comment]
@timjb I will have to think about the directory names (especially the capitalization) and Travis a little bit more (maybe index4.agda for cup products?), but let's merge your amazing work now.
